US07414061B2
c) 3-(4-Fluoro-phenyl)-5-methoxymethyl-isoxazole-4-carboxylic acid chloride
To a suspension of 3-(4-fluoro-phenyl)-5-methoxymethyl-isoxazole-4-carboxylic acid (2.51 g, 10.0 mmol) in thionyl chloride (4.0 mL) was added two drops of DMF, and the resulting reaction mixture was heated at 60° C. for 3 h. After cooling to room temperature, the mixture was concentrated under reduced pressure to afford the crude title compound (2.7 g, 100%) which was obtained as a light yellow liquid and used directly in the next step without further purification.

reactant | 3-(4-fluoro-phenyl)-5-methoxymethyl-isoxazole-4-carboxylic acid | 10.0 mmol, 2.51 g | FC1=CC=C(C=C1)C1=NOC(=C1C(=O)O)COC | C12H10FNO4
reactant | thionyl chloride | 4.0 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
product | 3-(4-Fluoro-phenyl)-5-methoxymethyl-isoxazole-4-carboxylic acid chloride | 2.7 g, 100% | FC1=CC=C(C=C1)C1=NOC(=C1C(=O)Cl)COC | C12H9ClFNO3
